US07326718B2
7. Ethyl 8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate
A solution of 8.0 g (24.7 mmol) ethyl 8-benzyloxy-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate in 80 ml ethanol is hydrogenated over 0.8 g 10% Pd/C (1 bar H2) for 24 h. The catalyst is filtered off and the filtrate is evaporated. The oily residue is crystallized from diethyl ether to give 5.0 g (86%) of the title compound as a colourless solid (m.p. 219-221° C.).

reactant | ethyl 8-benzyloxy-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate | 24.7 mmol, 8.0 g | C(C1=CC=CC=C1)OC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C19H20N2O3
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.8 g | [Pd] | Pd
product | Ethyl 8-hydroxy-2,3-dimethyl-imidazo[1,2-a]pyridine-6-carboxylate | 5.0 g, 86% | OC=1C=2N(C=C(C1)C(=O)OCC)C(=C(N2)C)C | C12H14N2O3
